US05958944
Benzyloxycarbonyl chloride (710 mg) was dropwise added to an aqueous solution (10 ml) of (R)-4-(1-aminoethyl)-3-fluorobenzoic acid hydrochloride (610 mg) and-sodium hydroxide (390 mg), and the mixture was stirred at room temperature for 4 hours. After the reaction, conc. hydrochloric acid was added to the reaction mixture to make the same acidic, and the mixture was extracted with chloroform. The mixture was dried and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform:methanol=40:1) to give 520 mg of (R)-4-(1-benzyloxycarbonylaminoethyl)-3-fluorobenzoic acid.

reactant | Benzyloxycarbonyl chloride | 710 mg | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | sodium hydroxide | 390 mg | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | (R)-4-(1-aminoethyl)-3-fluorobenzoic acid hydrochloride | 10 ml, 610 mg | Cl.N[C@H](C)C1=C(C=C(C(=O)O)C=C1)F
product | (R)-4-(1-benzyloxycarbonylaminoethyl)-3-fluorobenzoic acid | 520 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C)C1=C(C=C(C(=O)O)C=C1)F | C17H16FNO4
